US04826851
Under argon, 72 mg of 3-(6-methyl-2-ethynyl-8α-ergolinyl)-1,1-diethylurea is heated in 2 ml of dimethylformamide with 2 ml of triethylamine, 1.5 mg of copper(I) iodide, 0.069 ml of 2-iodothiophene, and 4.8 mg of palladium(O) tetrakis(triphenylphosphine) for 2 hours to 80° C. After evaporation, the mixture is taken up in ethyl acetate and washed in succession with dilute ammonia solution and saturated sodium chloride solution. After chromatography over silica gel with ethyl acetate:ethanol=1:1 and recrystallization from ethanol/hexane, 26 mg of 3-[6-methyl-2-(thien-2-ylethynyl)-8α-ergolinyl]-1,1diethylurea is obtained, mp 252°-256° C.

reactant | 3-(6-methyl-2-ethynyl-8α-ergolinyl)-1,1-diethylurea | 72 mg | CN1C[C@H](C[C@@H]2C=3C=CC=C4NC(=C(C[C@@H]12)C34)C#C)NC(N(CC)CC)=O | C22H28N4O
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-iodothiophene | 0.069 ml | IC=1SC=CC1 | C4H3IS
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 1.5 mg | [Cu]I
product | 3-[6-methyl-2-(thien-2-ylethynyl)-8α-ergolinyl]-1,1diethylurea | 26 mg | CN1C[C@H](C[C@@H]2C=3C=CC=C4NC(=C(C[C@@H]12)C34)C#CC=3SC=CC3)NC(N(CC)CC)=O | C26H30N4OS
